US08859553B2
N-Cyclobutyl-6-(2-(2-methyl-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)pyridazin-3-amine
N-Cyclobutyl-6-ethynylpyridazin-3-amine (62 mg, 0.36 mmol), 2-(3-iodo-4-methylphenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole (134 mg, 0.3 mmol), Pd(PPh3)4 (18 mg, 0.015 mmol) and CuI (4.3 mg, 0.023 mmol) were placed in a two neck flask with a rubber plug. The mixture underwent 3 cycles of vacuum and filling with Are, a solution of DIPEA (58 mg, 0.45 mmol) and DMF (2 mL) was injected to the flask. The mixture was stirred at rt for 20 hrs, and then was poured into 25 mL water, extracted with CH2Cl2 (20 mL×3), organic layer was washed with brine, dried with Na2SO4, filtered, and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silica gel (CH2Cl2/CH3OH 97:3 to 97:6) to give 0.12 g crude product, continue to purify via preparation TLC(CH2Cl2/CH3OH 120:8) to give 87 mg product as a pale yellow solid. Mp: 148-150° C.; 1H NMR (300 MHz, CDCl3) δ: 8.07-8.10 (1H, d, J=9.0 Hz), 7.90 (1H, s), 7.63-7.66 (1H, d, J=9.0 Hz), 7.63 (1H, s), 7.26-7.24 (1H, d, J=6.0 Hz), 7.20 (1H, m), 7.15 (1H, m), 6.60-6.63 (1H, d, J=9.0 Hz), 5.63 (1H, s), 4.26-4.33 (1H, m), 3.62 (2H, s), 2.58 (8H, brs), 2.35 (3H, s), 2.31 (3H, s), 1.94-2.03 (2H, m), 1.82-1.85 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C30H34N7: 492.2870. found: 492.2856.

reactant | N-Cyclobutyl-6-ethynylpyridazin-3-amine | 0.36 mmol, 62 mg | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
reactant | 2-(3-iodo-4-methylphenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole | 0.3 mmol, 134 mg | IC=1C=C(C=CC1C)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C | C20H23IN4
reactant | DIPEA | 0.45 mmol, 58 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.015 mmol, 18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.023 mmol, 4.3 mg | [Cu]I
solvent | water | 25 mL | O | H2O
product | N-Cyclobutyl-6-(2-(2-methyl-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)pyridazin-3-amine | 87 mg | C1(CCC1)NC=1N=NC(=CC1)C#CC1=C(C=CC(=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)C | C30H33N7
